US06384251B1
The same oxidation reaction of diphenyl methane as set forth in Example 19a was carried out using acetonitrile and water in place of acetone and water as the reaction solvents. All other reactants and processing conditions remained the same. Again, 0.7 g of starting material was recovered and 0.92 g of benzophenone was obtained, resulting in an identical yield of 86% based on 59% conversion.

reactant | diphenyl methane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | acetonitrile | C(C)#N | C2H3N
reactant | water | O | H2O
product | benzophenone | 0.92 g, yield of 86% | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
